US09371336B2
To a mixture of t-butyl 4-(5-formyl-4-hydroxypyridin-2-yl)piperazine-1-carboxylate (124 mg, 0.40 mmol) and ethyl 2-(7-methylimidazo[1,2-a]pyridin-2-yl)acetate (96 mg, 0.44 mmol) in EtOH (0.2 mL) were added piperidine (0.3 mL) and acetic acid (0.1 mL). The reaction mixture was heated to 120° C. for 15 hours and cooled to room temperature. To the mixture was added water (2 mL) to give a precipitate. The precipitate was filtered and washed with water and then ether. After drying under nitrogen, 115 mg (63%) of t-butyl 4-(3-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-oxo-2H-pyrano[3,2-c]pyridin-7-yl)piperazine-1-carboxylate was obtained as a yellow solid. MS m/z 462.3 [M+H]+.

reactant | t-butyl 4-(5-formyl-4-hydroxypyridin-2-yl)piperazine-1-carboxylate | 0.40 mmol, 124 mg | C(=O)C=1C(=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C15H21N3O4
reactant | ethyl 2-(7-methylimidazo[1,2-a]pyridin-2-yl)acetate | 0.44 mmol, 96 mg | CC1=CC=2N(C=C1)C=C(N2)CC(=O)OCC | C12H14N2O2
reactant | piperidine | 0.3 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 0.2 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
product | t-butyl 4-(3-(7-methylimidazo[1,2-a]pyridin-2-yl)-2-oxo-2H-pyrano[3,2-c]pyridin-7-yl)piperazine-1-carboxylate | 115 mg, 63% | CC1=CC=2N(C=C1)C=C(N2)C2=CC=1C=NC(=CC1OC2=O)N2CCN(CC2)C(=O)OC(C)(C)C | C25H27N5O4
